US05012004
To a suspension of sodium hydride (60% oil dispersion; 4.0 g) in N,N-dimethylformamide (100 ml), 2-hydroxydibenzofuran (18.4 g) was added at a temperature of 0 to 5° C., and the resultant suspension was stirred at room temperature for 1 hour. 2-Fluoroethyl methanesulfonate (14.2 g) was added thereto. The resulting mixture was stirred at room temperature for 12 hours. The reaction mixture was poured into ice-water and extracted with ethyl acetate. The extract was washed with aqueous potassium carbonate solution, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was distilled under reduced pressure to give 2-(2-fluoroethoxy)-dibenzofuran (Compound No. 35) (19.6 g). b.p., 180°-185° C./5 mmHg.

reactant | sodium hydride | 4.0 g | [H-].[Na+]
reactant | 2-hydroxydibenzofuran | 18.4 g | OC1=CC2=C(OC3=C2C=CC=C3)C=C1 | C12H8O2
reactant | 2-Fluoroethyl methanesulfonate | 14.2 g | CS(=O)(=O)OCCF | C3H7FO3S
solvent | N,N-dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | 2-(2-fluoroethoxy)-dibenzofuran | 19.6 g | FCCOC1=CC2=C(OC3=C2C=CC=C3)C=C1 | C14H11FO2
